US08084611B2
(4) 4-(2-chloro-pyrimidin-5-yl)-morpholine
Phosphoryl chloride (16 ml) was added to a solution of 5-morpholin-4-yl-pyrimidin-2-ol hydrochloride (7.49 g) and diethylaniline (11 ml) in acetonitrile (150 ml) over 10 minutes and the mixture was heated to reflux for 7.5 hours. The reaction mixture was cooled to room temperature, and added to a mixture of a saturated sodium hydrogen carbonate aq. solution and chloroform. The organic layer was washed with a saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by column chromatography (silica gel; hexane:ethyl acetate=4:1→1:1) to give the titled compound (4.6 g). MS (m/z): 200/202 [M+H]+.

reactant | Phosphoryl chloride | 16 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-morpholin-4-yl-pyrimidin-2-ol hydrochloride | 7.49 g | Cl.N1(CCOCC1)C=1C=NC(=NC1)O
reactant | diethylaniline | 11 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-chloro-pyrimidin-5-yl)-morpholine | 4.6 g | ClC1=NC=C(C=N1)N1CCOCC1 | C8H10ClN3O
